data/oMe_Silver.jsonl
{"reaction_id": "NR-326_1-c1ccccc1_2-c1ccccc1","level": "easy","name": "Wolff Rearrangement","reactants_smiles": ["C(c1ccccc1)(=O)C(=[N+]=[N-])c1ccccc1"],"products_smiles": ["O=C=C(c1ccccc1)c1ccccc1"],"conditions": "Heat, light, or metal catalyst (e.g., Ag2O)","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(=O)[C]c1ccccc1","step_weight": 0,"rationale": "Heating or catalysis promotes N₂ loss from the diazo group, favored by the excellent leaving ability of nitrogen and stabilization of the adjacent carbene by the carbonyl through resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=C(c1ccccc1)c1ccccc1","step_weight": 0,"rationale": "The electron-deficient carbene undergoes a 1,2-shift of c1ccccc1 to stabilize via ketene formation, driven by conjugation between C=C=O and relief of carbene instability."}],"description": "Under thermal, photochemical, or metal-catalyzed conditions, the α-diazoketone loses nitrogen gas to form a reactive carbene. This intermediate undergoes a 1,2-shift, driven by carbene instability and the formation of a conjugated ketene, yielding the rearranged product."}
{"reaction_id": "NR-203_1-c1ccc(C(F)(F)F)cc1_2-CC(=O)C","level": "medium","name": "Nef Reaction","reactants_smiles": ["C(c1ccc(C(F)(F)F)cc1)(CC(=O)C)([N+](=O)[O-])"],"products_smiles": ["O=C(c1ccc(C(F)(F)F)cc1)(CC(=O)C)"],"conditions": "H3O+","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)(CC(=O)C)=N([O-])=O","step_weight": 0,"rationale": "Protonation of the nitro group oxygen increases electrophilicity of nitrogen, facilitating tautomerization to the nitronic acid form under acidic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)(CC(=O)C)=[N+]([O-])O","step_weight": 0,"rationale": "Further proton transfer stabilizes the nitronic acid tautomer by delocalizing positive charge onto nitrogen, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)(CC(=O)C)=[N+](O)O","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen enhances the leaving ability of water in later steps and increases the electrophilicity of the nitrogen center."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)(CC(=O)C)([NH+](O)O)[OH2+]","step_weight": 0,"rationale": "Water, abundant in acidic medium, attacks the electrophilic nitrogen-carbon center, driven by the positive charge and resonance stabilization of the intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)(CC(=O)C)([NH+](O)O)[OH]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to the nitronic hydroxyl group prepares for elimination by generating a better leaving group."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[OH+]=C(c1ccc(C(F)(F)F)cc1)(CC(=O)C)","step_weight": 0,"rationale": "Elimination of the protonated hydroxylamine fragment occurs because water is a good leaving group under acidic conditions, forming an oxonium ion intermediate."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccc(C(F)(F)F)cc1)(CC(=O)C)","step_weight": 0,"rationale": "Loss of a proton from the oxonium ion yields the neutral carbonyl product, driven by the thermodynamic stability of the C=O bond."}],"description": "Under acidic conditions, the nitro group of the nitroalkane is sequentially protonated and rearranged to form a nitronic acid, which undergoes hydration and elimination steps. Proton transfers and good leaving group formation drive the conversion to the corresponding carbonyl compound."}
